* Z:\home\facu\TCII\TareasSemanales\Tareas-Semanales-TC2\TPL1\TC2_TPLAB1.asc
XU1 N001 0 N004 opamp Aol=100K GBW=10Meg
XU2 N005 0 Va opamp Aol=100K GBW=10Meg
XU3 N003 0 N002 opamp Aol=100K GBW=10Meg
R5 Va N003 {R4}
R1 N001 Vin {R1}
R2 N004 N001 {R2}
R3 Va N001 {R3}
R4 N005 N004 {R3}
R6 N003 N002 {R4}
C1 N004 N001 {C1}
C2 N002 N005 {C1}
Vin Vin 0 AC 1 0
XU4 N006 Va N006 opamp Aol=100K GBW=10Meg
R7 Vo N006 {R5}
C3 0 Vo {C2}
.lib opamp.sub
.param R1=10k R2=16.9k R3=10k R4=10k C1=10n C2=10n R5=16.9K
.ac dec 1000 100 1MEGk
.backanno
.end
